US07199105B2
To a mixture of 4-(4-fluoro-butyl)-pyridine-2-carboxylic acid methyl ester (0.24 g) in THF (3 mL) and water (1 mL) was added lithium hydroxide monohydrate (71.3 mg, 1.7 mmol, 1.5 equiv). The mixture was stirred at rt overnight and diluted with methanol (20 mL). Then H+ resin was added and the mixture was shaken for 10 minutes. The resin was washed with methanol (1×), 1:1 acetonitrile/water (1×), and acetonitrile (1×). The product was eluted with 5% TEA in methanol (4×) and acetonitrile (1×). The combined organic solvents were evaporated and co-evaporated with toluene to provide 4-(4-Fluoro-butyl)-pyridine-2-carboxylic acid (0.22 g, 65%).

reactant | 4-(4-fluoro-butyl)-pyridine-2-carboxylic acid methyl ester | 0.24 g | COC(=O)C1=NC=CC(=C1)CCCCF | C11H14FNO2
reactant | lithium hydroxide monohydrate | 1.7 mmol, 71.3 mg, 1.5 equiv | O.[OH-].[Li+]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | water | 1 mL | O | H2O
solvent | methanol | 20 mL | CO | CH4O
product | 4-(4-Fluoro-butyl)-pyridine-2-carboxylic acid | 0.22 g, 65% | FCCCCC1=CC(=NC=C1)C(=O)O | C10H12FNO2
